US08981148B2
Preparation of compound 2, (ethyl 2-(dimethylamino)-2-oxoacetate)
In a 1,500 mL reactor, are added at 0° C., 360 g (4 mol) of dimethylamine (DMA) solution at 50% by weight in methanol and 44 g (0.2 mol) of sodium methylate at 25% by weight in methanol. To this mixture are added at 0-5° C. and within 1 hour, 584 g (4 mol) of diethyl oxalate. The mixture is maintained with stirring at 0° C. for 4 hours. The reaction medium is concentrated in vacuo (Pmax=200 mbars) for removing residual DMA and methanol and an 85% orthophosphoric acid solution (23.3 g 0.2 mol) is then added. The salts formed are filtered and the filtrate is then distilled in vacuo (Tbp=77-78° C., P<1 mbar) for recovering the desired product (500 g).

reactant | dimethylamine | 4 mol, 360 g | CNC | C2H7N
reactant | sodium methylate | 0.2 mol, 44 g | C[O-].[Na+]
reactant | diethyl oxalate | 4 mol, 584 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | orthophosphoric acid | 0.2 mol, 23.3 g | P(O)(O)(O)=O | H3O4P
solvent | methanol | CO | CH4O
product | ethyl 2-(dimethylamino)-2-oxoacetate | CN(C(C(=O)OCC)=O)C | C6H11NO3
